US08389520B2
tert-Butyl [(6-chloropyridin-3-yl)methyl]carbamate
25.0 g (175.3 mmol) 5-aminomethyl-2-chloropyrimidine are initially introduced into 175 ml methylene chloride. 175 ml 10% strength sodium hydroxide solution are added and a solution of 38.3 g (175.3 mmol) di-tert-butyl dicarbonate in 175 ml methylene chloride is added dropwise. The mixture is stirred at RT for 16 h. It is then diluted with 175 ml methylene chloride, the organic phase is separated off and the aqueous phase is extracted with 175 ml methylene chloride. The combined organic phases are dried over magnesium sulfate and concentrated in vacuo. The product is dried under a high vacuum.

reactant | 5-aminomethyl-2-chloropyrimidine | 175.3 mmol, 25.0 g | NCC=1C=NC(=NC1)Cl | C5H6ClN3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 175.3 mmol, 38.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(6-chloropyridin-3-yl)methyl]carbamate | ClC1=CC=C(C=N1)CNC(OC(C)(C)C)=O | C11H15ClN2O2
